US04454320
Alternatively, 2-chloroanisole, 2-bromoanisole or 2-iodoanisole is converted to the corresponding Grignard reagent by reaction with magnesium turnings in diisopropyl ether. The reagent is chilled and reacted with anhydrous alloxan according to Example 5 to yield 5-(hydroxy-5-(2-methoxyphenyl)-2,4,6(1H,3H,5H)pyrimidintrione.

reactant | 2-chloroanisole | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | 2-bromoanisole | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 2-iodoanisole | IC1=C(C=CC=C1)OC | C7H7IO
reactant | magnesium | [Mg] | Mg
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | hydroxy-5-(2-methoxyphenyl)-2,4,6(1H,3H,5H)pyrimidintrione | ON1C(NC(C(C1=O)C1=C(C=CC=C1)OC)=O)=O | C11H10N2O5
